US06300368B1
4′-[2-(Isopropylamino)ethoxy]-2,6-dimethoxy-3′-methoxybenzanilide (1.0 g) solution in isopropylalcohol (5 ml) was added with 1N HCl/ethanol (3.9 ml) and the mixture was stirred. Crystals separated were collected by filtration, washed with isopropylalcohol (5 ml) and dried under vacuum to obtain 4′-[2-(isopropylamino)ethoxy]-2,6-dimethoxy-3′-methoxybenzanilide hydrochloride (1.04 g) as white crystal.

reactant | 4′-[2-(Isopropylamino)ethoxy]-2,6-dimethoxy-3′-methoxybenzanilide | 1.0 g | C(C)(C)NCCOC1=C(C=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1)OC | C21H28N2O5
reactant | HCl ethanol | 1N, 3.9 ml | Cl.C(C)O
solvent | isopropylalcohol | 5 ml | C(C)(C)O | C3H8O
product | 4′-[2-(isopropylamino)ethoxy]-2,6-dimethoxy-3′-methoxybenzanilide hydrochloride | 1.04 g | Cl.C(C)(C)NCCOC1=C(C=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1)OC | InChI=1S/C21H28N2O5.ClH/c1-14(2)22-11-12-28-16-10-9-15(13-19(16)27-5)23-21(24)20-17(25-3)7-6-8-18(20)26-4;/h6-10,13-14,22H,11-12H2,1-5H3,(H,23,24);1H
